US05073558
Synthesis of 5-chloro-N-chlorocarbonyl-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine
An amount 2.0 g of trichloromethyl chloroformate (TCF) was dissolved in 30 ml of toluene and cooled to 5° C. or lower. To the solution was added dropwise a solution of 5.0 g of 5-chloro-N-{2-[4-(2-ethoxyethyl)2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine and 1.8 g of triethylamine dissolved in 20 ml of toluene, and after the dropwise addition, the mixture was stirred at room temperature for 3 hours. After completion of the reaction, 20 ml of water was added, and the mixture was stirred at room temperature for one hour to decompose excessive TCF.

reactant | trichloromethyl chloroformate | 2.0 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 5-chloro-N-{2-[4-(2-ethoxyethyl)2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine | 5.0 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CCOCC)C | C18H24ClN3O2
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-N-chlorocarbonyl-N-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethyl}-6-methyl-4-pyrimidine amine | ClC=1C(=NC=NC1C)N(CCOC1=C(C=C(C=C1)CCOCC)C)C(=O)Cl | C19H23Cl2N3O3
